US07238714B2
Step 1. 4-Fluoro-2-(4-fluorophenoxy)benzoic acid
A mixture of 2-chloro-4-fluorobenzoic acid (1.74 g, 10 mmol), 4-fluorophenol (2.24 g, 20 mmol), copper (50 mg, 0.78 mmol), copper(I) iodide (50 mg, 0.28 mmol), potassium carbonate (2.76 g, 20 mmol), and pyridine (0.40 mL, 5.0 mmol) in water (6.0 mL) was heated under reflux for 2 h with stirring. The reaction mixture was diluted with water and filtered through a pad of Celite®. The pH value of the filtrate was adjusted to 9.0 by the addition of 2 M aqueous solution of sodium carbonate. The aqueous mixture was extracted with dichloromethane (50 mL×3). The combined organic extracts were washed with brine (50 mL), dried (sodium sulfate), and concentrated to afford 29 mg (99%) of the title compound: MS (ESI) m/z 250 (M+).

reactant | 2-chloro-4-fluorobenzoic acid | 10 mmol, 1.74 g | ClC1=C(C(=O)O)C=CC(=C1)F | C7H4ClFO2
reactant | 4-fluorophenol | 20 mmol, 2.24 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | potassium carbonate | 20 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | pyridine | 5.0 mmol, 0.40 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 6.0 mL | O | H2O
catalyst | copper | 0.78 mmol, 50 mg | [Cu] | Cu
catalyst | copper(I) iodide | 0.28 mmol, 50 mg | [Cu]I
product | 4-Fluoro-2-(4-fluorophenoxy)benzoic acid | 29 mg, 99% | FC1=CC(=C(C(=O)O)C=C1)OC1=CC=C(C=C1)F | C13H8F2O3
